US05807883
1.5 ml of 4N sodium hydroxide and 5 ml of water were added to a mixed solution of 1.20 g of ethyl 3-[3-(3,4-dichlorobenzoylamino)-2,3-dihydro-2-oxo-1-(3-phenylpropyl)-1H-indol-3-yl]propionate, 20 ml of ethanol and 5 ml of tetrahydrofuran. The mixture was stirred at room temperature for 7 hours. The reaction mixture was concentrated under reduced pressure, diluted with water, then made acidic with 10% hydrochloric acid and extracted with ethyl acetate. After the extract was dried, the solvent was removed by evaporation. The residue was recrystallized from ethanol-ethyl acetate to afford 1.09 g of 3-[3-(3,4-dichlorobenzoylamino)-2,3-dihydro-2-oxo-1-(3-phenylpropyl)-1H-indol-3-yl]propionic acid as colorless needles. Melting point: 242° to 243° C., IR (Nujol) (cm-1): 3285, 1715, 1690, 1675, 1615, FAB-MS (m/z): 513 & 511 (MH+).

reactant | sodium hydroxide | 4N, 1.5 ml | [OH-].[Na+]
reactant | water | 5 ml | O | H2O
reactant | ethyl 3-[3-(3,4-dichlorobenzoylamino)-2,3-dihydro-2-oxo-1-(3-phenylpropyl)-1H-indol-3-yl]propionate | 1.20 g | ClC=1C=C(C(=O)NC2(C(N(C3=CC=CC=C23)CCCC2=CC=CC=C2)=O)CCC(=O)OCC)C=CC1Cl | C29H28Cl2N2O4
reactant | ethanol | 20 ml | C(C)O | C2H6O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 3-[3-(3,4-dichlorobenzoylamino)-2,3-dihydro-2-oxo-1-(3-phenylpropyl)-1H-indol-3-yl]propionic acid | 1.09 g | ClC=1C=C(C(=O)NC2(C(N(C3=CC=CC=C23)CCCC2=CC=CC=C2)=O)CCC(=O)O)C=CC1Cl | C27H24Cl2N2O4
